US07141561B2
1-[3-Benzyl-4-(2-bromoethoxy)phenyl]-3-(4-phenoxyphenyl)-1,3-dihydroimidazol-2-one
A solution of 1-(3-benzyl-4-hydroxyphenyl)-3-(4-phenoxyphenyl)-1,3-dihydroimidazol-2-one (233 mg) in 1,2-dibromoethane (1.7 ml) was mixed with sodium hydroxide solution (3N, 0.6 ml) and tetrabutylammonium hydrogen sulfate (12 mg). The mixture was heated at 80° C. for 2 hours. After cooling, the reaction mixture was diluted with dichloromethane and washed with sodium hydroxide solution (1N), hydrochloric acid (1N) and saturated brine. The organic phase was dried over magnesium sulfate and concentrated, and the residue was purified by chromatography on silica gel (eluent: heptane/ethyl acetate 3:2). The product with the molecular weight of 541.45 (C30H25BrN2O3); MS (ESI): 541 ([M+H]+), was obtained in this way.

reactant | 1-(3-benzyl-4-hydroxyphenyl)-3-(4-phenoxyphenyl)-1,3-dihydroimidazol-2-one | 233 mg | C(C1=CC=CC=C1)C=1C=C(C=CC1O)N1C(N(C=C1)C1=CC=C(C=C1)OC1=CC=CC=C1)=O | C28H22N2O3
reactant | sodium hydroxide | 3N, 0.6 ml | [OH-].[Na+]
reactant | 1,2-dibromoethane | 1.7 ml | BrCCBr | C2H4Br2
catalyst | tetrabutylammonium hydrogen sulfate | 12 mg | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-[3-Benzyl-4-(2-bromoethoxy)phenyl]-3-(4-phenoxyphenyl)-1,3-dihydroimidazol-2-one | C(C1=CC=CC=C1)C=1C=C(C=CC1OCCBr)N1C(N(C=C1)C1=CC=C(C=C1)OC1=CC=CC=C1)=O | C30H25BrN2O3
